US07521462B2
To a solution of 7-bromomethyl-benzo[b]thiophene (0.63 g, 2.8 mmol, 1 eq) and 1,1-dimethylethyl 4-[(2-methylpropyl)amino]piperidine-1-carboxylate (0.71 g, 2.8 mmol, 1 eq) in acetonitrile (25 ml) is added potassium carbonate (0.62 g, 4.4 mmol, 1.6 eq). The mixture is heated to reflux for 16 hours. The solution is filtered and the solvent removed in vacuo. The resulting oil is purified on a 40 g Redisep column using a gradient of 0-20% ethyl acetate/iso-hexane to give 1,1-dimethylethyl 4-{[(benzothien-7-yl)methyl]-(2-methylpropyl)amino}-piperidine-1-carboxylate as an oil (0.65 g, 40%); mass spectrum (LCMS): m/z=403.3 (M++1), Rt=4.40 (6 minute gradient); 1H NMR (300 MHz, CDCl3): δ=7.79-7.65 (1 H, m), 7.46-7.40 (1 H, m), 7.37-7.30 (3 H, m), 4.18-4.06 (4H, m), 3.90 (2 H, s), 2.67-2.44 (3 H, m), 2.32-2.22 (2 H, m), 1.87-1.37 (8 H, m), 144 (4H, s) and 0.92-0.83 (6 H, m).

reactant | 7-bromomethyl-benzo[b]thiophene | 2.8 mmol, 0.63 g, 1 eq | BrCC1=CC=CC2=C1SC=C2 | C9H7BrS
reactant | 1,1-dimethylethyl 4-[(2-methylpropyl)amino]piperidine-1-carboxylate | 2.8 mmol, 0.71 g, 1 eq | CC(CNC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H28N2O2
reactant | potassium carbonate | 4.4 mmol, 0.62 g, 1.6 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1,1-dimethylethyl 4-{[(benzothien-7-yl)methyl]-(2-methylpropyl)amino}-piperidine-1-carboxylate | 0.65 g, 40% | S1C=CC2=C1C(=CC=C2)CN(C2CCN(CC2)C(=O)OC(C)(C)C)CC(C)C | C23H34N2O2S
